US07091211B2
Step A: tert-Butyl 4-methoxycarbonyl-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate
To a solution of KHMDS (8.72 g, 44 mmol) in THF (300 mL) at −70° C. was slowly added over 10 min a solution of tert-butyl 4-methoxycarbonylpiperidine-1-carboxylate (7.1 g, 29 mmol) in THF (70 mL). After 1 h, 2-bromo-1-(tert-butyldimethylsilyloxy)ethane (10 g, 47 mmol) was added and the reaction was allowed to warm to room temperature for 1 h. The mixture was poured into aq. sodium bicarbonate solution and extracted three times with ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was used directly in the next step. TLC (50% ethyl acetate in hexanes) indicated a mixture of bromide starting material and title product.

reactant | KHMDS | 44 mmol, 8.72 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | tert-butyl 4-methoxycarbonylpiperidine-1-carboxylate | 29 mmol, 7.1 g | COC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C12H21NO4
reactant | 2-bromo-1-(tert-butyldimethylsilyloxy)ethane | 47 mmol, 10 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-methoxycarbonyl-4-(2-(tert-butyldimethylsilyloxy)eth-1-yl)piperidine-1-carboxylate | COC(=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CCO[Si](C)(C)C(C)(C)C | C20H39NO5Si
